US07115611B2
In analogy to the procedures described in example 26B] and 26C], 2-(3-aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 52B]) was reacted with 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid (example 53B]) to give 2-[3-({[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless amorphous solid.

reactant | 2-(3-aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid | C1(CC1)C1=NC(=NC=C1C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3N2O2
product | 2-[3-({[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CNC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C28H28F3N3O4
